US06743902B1
A solution of 3′-O-(4,4′-dimethoxytrityl)-4′-C-hydroxymethylthymidine (6.32 g, 11.0 mmol) in 80% acetic acid in water (50 ml) stood at room temperature for 4 h. Solvents were removed under reduced pressure and water (200 ml) added. The resulting cloudy mixture was washed with ether (3×80 ml) and water was evaporated. The residue was dissolved in methanol and toluene and the resulting solution was concentrated. This process was repeated twice. 4′-C-hydroxymethylthymidine (2.72 g, 91%) was obtained as a foam.

reactant | 3′-O-(4,4′-dimethoxytrityl)-4′-C-hydroxymethylthymidine | 11.0 mmol, 6.32 g | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)O[C@H]2C[C@@H](OC2(CO)CO)N2C(=O)NC(=O)C(C)=C2)C=C1 | C32H34N2O8
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 50 ml | O | H2O
product | 4′-C-hydroxymethylthymidine | 2.72 g, 91% | OCC1([C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)O)CO | C11H16N2O6
